US09102614B2
Preparation of 7-bromo-3-methyl-3,4-dihydronaphthalen-1(2H)-one (51):
A solution of 4-(4-bromophenyl)-3-methylbutanoic acid, prepared in a similar manner as described in Example 32 (6.43 g, 25.0 mmol), in H2SO4 (25 mL) was stirred at 75° C. for 3 h. The mixture was slowly poured onto ice. The resulting slurry was extracted with EtOAc (2×100 mL). The combined organic layers were washed with brine, dried, filtered, and concentrated in vacuo. The crude material was purified by column chromatography (EtOAc/hexanes) to give 5.74 g (96%) of the title compound. 1H-NMR: 400 MHz, (CDCl3) δ: 8.10 (d, J=2 Hz, 1H), 7.54 (dd, J=8, 2 Hz, 1H), 7.11 (d, J=8 Hz, 1H), 2.91 (d, J=16 Hz), 2.71 (d, J=13 Hz), 2.58 (m, 1H), 2.28 (m, 2H), 1.12 (d, J=6 Hz, 3H).

reactant | 4-(4-bromophenyl)-3-methylbutanoic acid | BrC1=CC=C(C=C1)CC(CC(=O)O)C | C11H13BrO2
solvent | H2SO4 | 25 mL | OS(=O)(=O)O | H2O4S
product | 7-bromo-3-methyl-3,4-dihydronaphthalen-1(2H)-one | 5.74 g, 96% | BrC1=CC=C2CC(CC(C2=C1)=O)C | C11H11BrO
